US06111115
(1) Preparation of diethyl 2-[3-[acetyl(methoxycarbonyl)methyl]-4-nitrophenyl]-2-methylmalonate
To a solution of diethyl 2-(3-chloro-4-nitrophenyl)-2-methylmalonate (1.0 g, 3.03 mmol.) in dimethyl sulfoxide (DMSO, 3mL) were added potassium carbonate (1.25 g, 9.09 mmol.) and methyl acetoacetate (0.99 mL, 9.0 mmol.). The resulting mixture was stirred at 70° C. for 6 hours. The reaction mixture was cooled to room temperature, neutralized with diluted hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate portion was washed with an aqueous saturated sodium chloride solution, and dried over magnesium sulfate. The dried portion was concentrated to leave a residue. The residue was purified by silica gel column chromatography (Wako Gel C-330, available from Wako Jyunyaku Industry Co., Ltd., toluene/ethyl acetate=100/4, v/v), to give 0.64 g (yield: 52%) of the desired compound as a yellow oil.

reactant | diethyl 2-(3-chloro-4-nitrophenyl)-2-methylmalonate | 3.03 mmol, 1.0 g | ClC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)(C(=O)OCC)C | C14H16ClNO6
reactant | potassium carbonate | 9.09 mmol, 1.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl acetoacetate | 9.0 mmol, 0.99 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 3mL | CS(=O)C | C2H6OS
product | diethyl 2-[3-[acetyl(methoxycarbonyl)methyl]-4-nitrophenyl]-2-methylmalonate | 0.64 g, yield: 52% | C(C)(=O)C(C=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)(C(=O)OCC)C)C(=O)OC | C19H23NO9
